* ============================================================
* 2T1C simplified (M2 removed)
* M1: gate=V3=3V, drain=mid, source=SN
* M0: gate=SN,   drain=mid, source=V5=1V
* C1: SN to V4=0V
* Initial condition: V(SN) = 3V  (pre-charged storage node)
* ============================================================

.TITLE 2T1C SN_IC=3V

.INCLUDE igzo_smooth.sub

VV3  v3n  0  DC 3.0
VV4  v4n  0  DC 0.0
VV5  v5n  0  DC 1.0

C1  sn  v4n  100f  IC=3

XM1  mid  v3n  sn   IGZO_SMOOTH
XM0  mid  sn   v5n  IGZO_SMOOTH

RBLEED  sn   0  10G
RMID    mid  0  10G
CMID    mid  0  1f
CSN     sn   0  1f

.IC  V(sn)=3  V(mid)=0

.OPTIONS TIMEINT METHOD=TRAP ABSTOL=1e-13 RELTOL=1e-3
.OPTIONS DEVICE GMIN=1e-15

.TRAN 5n 10000n UIC

.PRINT TRAN FORMAT=CSV  TIME  V(sn)  V(mid)

.END
