* Right circuit (M3): V4=-0.5V fixed, V5 swept
* VSN = Vth + V4_fixed + V5,  Vgs_M3 = VSN - V4 = Vth + V5
.INCLUDE igzo_smooth_k5.sub
VV1  v1n  0  DC 0.0
VV2  v2n  0  DC 3.0
VV3  v3n  0  DC -3.0
VV4  v4n  0  DC -0.5
VV5  v5n  0  DC 0.0
BSN  sn  0  V={V(v5n) + -0.3898}
XM5  v1n  v2n  mid  IGZO_SMOOTH_K5
XM4  mid  v3n  sn   IGZO_SMOOTH_K5
XM3  mid  sn   v4n  IGZO_SMOOTH_K5
RMID mid  0  10T
.DC VV5 -1 1 0.02
.PRINT DC FORMAT=CSV V(v5n) V(sn) V(mid) I(VV4)
.END
